US08604032B2
To a rapidly stirred mixture of 1,1,1,3-tetrafluoro-2-(trifluoromethyl)-4-oxapent-2-ene (N-1) (10.0 g, 47.15 mmol) and formamidine acetate (7.37 g, 70.73 mmol) in a mixture of water (50 mL) and dichloromethane (50 mL) at 0° C., a solution of sodium hydroxide (7.54 g, 189 mmol) in water (40 mL) is added dropwise and the resulting mixture is stirred for 30 min after complete addition. The dichloromethane layer is separated, washed with 1M aqueous HCl solution and water, dried over Na2SO4 and filtered. The filtrate is concentrated in vacuo to afford 4-fluoro-6-methoxy-5-(trifluoromethyl)pyrimidine (N-2) as a yellow solid. The product is used directly in the next step without further purification.

reactant | 1,1,1,3-tetrafluoro-2-(trifluoromethyl)-4-oxapent-2-ene | 47.15 mmol, 10.0 g | FC(C(=C(OC)F)C(F)(F)F)(F)F | C5H3F7O
reactant | formamidine acetate | 70.73 mmol, 7.37 g | C(C)(=O)O.C(=N)N
reactant | sodium hydroxide | 189 mmol, 7.54 g | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 40 mL | O | H2O
product | 4-fluoro-6-methoxy-5-(trifluoromethyl)pyrimidine | FC1=NC=NC(=C1C(F)(F)F)OC | C6H4F4N2O
